US08614337B2
To a three-necked flask, the (S)-5-methoxy-N-propyl-N-(2′-(thien-2-yl-)ethyl)-tetralin-2-amine (20 g, 61 mmol) prepared above in Example 6 and DCM (300 mL) were added at room temperature, and then cooled to about 0° C. Thereafter, a solution of boron tribromide (73.2 mmol) in dichloromethane (concentration: 1 g/3.8 mL) was added dropwise to the reaction liquid. After the addition, the temperature was warmed up to room temperature to react. After the reaction being complete, the mixture was neutralized by the addition of saturated aqueous sodium bicarbonate solution. The organic phase was separated out and concentrated to give crude rotigotine free base. Yield: 100%, Purity: 91%.

reactant | (S)-5-methoxy-N-propyl-N-(2′-(thien-2-yl-)ethyl)-tetralin-2-amine | 61 mmol, 20 g | COC1=C2CC[C@@H](CC2=CC=C1)N(CCC=1SC=CC1)CCC | C20H27NOS
reactant | boron tribromide | 73.2 mmol | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3.8 mL | ClCCl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | rotigotine | Yield: 100% | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C=CC=C3O)C2 | C19H25NOS
